**Test
.GLOBAL vss! vdd!
.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    HIER_DELIM=0
.options accurate=1 NUMDGT=8 measdgt=5 GMINDC=1e-18 DELMAX=1n method=gear INGOLD=2 POST=1
.INCLUDE "/cae/apps/data/asap7PDK-2022/asap7PDK_r1p7/models/hspice/7nm_TT_160803.pm"
.INCLUDE "OR2.sp"
v1 vdd 0 0.9v
v2 vss 0 0v
v3 a 0 pwl 0ns 0v   1ns 0v   1.025ns 0v   2ns 0v   2.025ns 0.9v 3ns 0.9v 3.025ns 0.9v   4ns 0.9v
v4 b 0 pwl 0ns 0v   1ns 0v   1.025ns 0.9v 2ns 0.9v 2.025ns 0.9v 3ns 0.9v 3.025ns 0v     4ns 0v 
.OP
.TRAN STEP=10p STOP=5n
.end
